US07919491B2
hexahydropyrrolo[1,2-a]pyrazin-8a(6H)-ylmethanol (D67)
To a solution of [2-(phenylmethyl)hexahydropyrrolo[1,2-a]pyrazin-8a(6H)-yl]methanol (D66, 180 mg) in anhydrous methanol (5 mL) under a Nitrogen atmosphere at rt, ammonium formate (475 mg) and palladium (10% on carbon, 13 mg) were added. The resulting suspension was heated at reflux temperature for 3.5 hours, then allowed to cool to r.t. and filtered over Celite. The organic extract was dried and concentrated in vacuo to give the desired compound (120 mg) as orange waxy solid.

reactant | [2-(phenylmethyl)hexahydropyrrolo[1,2-a]pyrazin-8a(6H)-yl]methanol | 180 mg | C1(=CC=CC=C1)CN1CC2(N(CC1)CCC2)CO | C15H22N2O
reactant | ammonium formate | 475 mg | C(=O)[O-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium | 13 mg | [Pd] | Pd
product | hexahydropyrrolo[1,2-a]pyrazin-8a(6H)-ylmethanol | 120 mg | C1C2(N(CCN1)CCC2)CO | C8H16N2O
